US04831190
A process for preparing 3,5,6-trifluoro-4-hydroxyphthalic acid used here as the starting material is described in Osadchii, S. A., Bakahash, V. A.; Zh. Org. Khim., Vol. 6 (8), p. 1636 (1970) (Chemical Abstract, 73, 109544p). According to this litrature, when tetrafluorophthalic anhydride and pentafluorophenylacetic acid are reacted in triethylamine-acetic anhydride, a triethylamine salt of 5-hydroxy-4,6,7-trifluoro-3-(pentafluorobenzylidene)phthalide is obtained. And, by treatment of the by-products of this reaction, 3,5,6-trifluoro-4-hydroxyphthalic acid is obtained.

reactant | 3,5,6-trifluoro-4-hydroxyphthalic acid | FC1=C(C(C(=O)O)=C(C(=C1O)F)F)C(=O)O | C8H3F3O5
reactant | tetrafluorophthalic anhydride | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
reactant | pentafluorophenylacetic acid | FC1=C(C(=C(C(=C1CC(=O)O)F)F)F)F | C8H3F5O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine acetic anhydride | C(C)N(CC)CC.C(C)(=O)OC(C)=O
product | 5-hydroxy-4,6,7-trifluoro-3-(pentafluorobenzylidene)phthalide | OC=1C(=C2C(OC(=O)C2=C(C1F)F)=CC1=C(C(=C(C(=C1F)F)F)F)F)F | C15H2F8O3
